US06777428B1
4-[3-(4-methoxybenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (50 mg, 0.229 mmol) and 4-methoxybenzoyl chloride (117 mg, 0.687 mmol), 81.5 mg (>100%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.229 mmol, 50 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 4-methoxybenzoyl chloride | 0.687 mmol, 117 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 4-[3-(4-methoxybenzamidyl)benzoyl]-1-methylpiperidine | 81.5 mg, >100% | COC1=CC=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=C1 | C21H24N2O3
